US09284284B2
c) [5-(5-Bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To a solution of 5-(5-bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (13.50 g, 47 mmol) in DCM (203 ml) was added Boc2O (13.34 g, 61 mmol) and DIPEA (11.99 ml, 71 mmol) at 0° C. The reaction mixture was allowed to warm to rt over night, then quenched at 10° C. with water. The aq. layer was twice reextracted with EtOAc. The combined org. layers were washed with cold 1N aq. HCl, 2% aq. NaHCO3 soln. and water, dried over Na2SO4 and concentrated to yield the crude title compound that was purified by FC (heptane/EtOAc 9:1).

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 47 mmol, 13.50 g | BrC=1C=CC(=C(C1)C1(N=C(COC1)N)C)F | C11H12BrFN2O
reactant | Boc2O | 61 mmol, 13.34 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 71 mmol, 11.99 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 203 ml | C(Cl)Cl | CH2Cl2
product | [5-(5-Bromo-2-fluoro-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=C(C=CC(=C1)Br)F)=O | C16H20BrFN2O3
